2118-01-06 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 104.4
F - [**2118-1-6**] 06:00 AM
   [**3-27**] w/ GPCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-5**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-6**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 40.2
C (104.4
   Tcurrent: 40.2
C (104.4
   HR: 120 (82 - 122) bpm
   BP: 118/58(74) {94/47(57) - 129/74(88)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 78 Inch
             Total In:
                                                                    460 mL
                                                                    554 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    220 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    460 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   401 K/uL
   8.6 g/dL
   84 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   30 mg/dL
   103 mEq/L
   141 mEq/L
   30.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2118-1-6**]  04:07 AM
   WBC
   9.0
   Hct
   30.5
   Plt
   401
   Cr
   4.4
   Glucose
   84
   Other labs: PT / PTT / INR:14.2/30.6/1.2, Ca++:9.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.0 mg/dL
   Microbiology: Coag + staph in [**3-27**] bottles
   Assessment and Plan
   59M with ESRD on HD with tunnelled femoral line, recent prolonged
   hospital admission with MSSA bacteremia and lung abscesses, now
   admitted to MICU for fever and hypotension.
   .
   # Hypotension:  Now resolved after fluid ressusitation.  [**Month (only) 60**] have been
   over dialyzed at HD vs. SIRS response in setting of fever and potential
   infection.  No e/o leukocytosis, tachycardia, or clear source of
   infection.  BPs currently holding stable.  Is, however, up 8kg from his
   dry weight, although bed weights less reliable.  Over currently stable
   and will continue to monitor with ID management given below.
   .
   # Fever: Likely [**1-25**] to high-grade bacteremia.   With chronic HD line,
   must be concerned for line associated infection. ED gave levo for RLL
   infiltrate, although appears stable from prior films.  Has chronic
   exudative effusion, with no hx of empyema.
   -- will continue vanc, f/u Bcx sensitivities
   -- given absence of pulm complaints and no change in old CXR, will hold
   more expanded pneumonia coverage, but send sputum for culture
   -- if patient isn'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 11376**], [**First Name3 (LF) 178**] send UA/UCx
   -- discuss w/ renal removal of line.
   .
   # ERSD on HD: will call renal to make sure they are aware of admission
   and cont qMWF HD.  Will cont home sevelamer and renal diet.
   .
   # RLL opacity:  Chronic compared to prior images, will send sputum
   culture and hold of further broadening of antibiotics.
   .
   # Seizure disorder: Will continue home oxcarbazepine and kepra.
   .
   # FEN: No IVF, replete electrolytes, renal diet
   # Prophylaxis: Subcutaneous heparin
   # Access: R EJ, femoral tunnelled HD line.
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-5**] 06:43 PM
   18 Gauge - [**2118-1-5**] 06:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-06 09:11:00 Physician Attending Progress Note
Chief Complaint: fevers in HD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -blood cultures 4/4 GPC
   -remained hemodynamically stable,
   -mild hypotension responded to 500cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-5**] 09:00 PM
   Other medications:
   allopurinol
   digoxin qod
   neurontin 300 q hd
   heparin sq
   protonix 40
   renagel
   keppra 500 q hd tid
   vanc 1 g w HD
   Keppra 500 [**Hospital1 **]
   oxycarbamazepime
   cholestyramine
   omeprazole 40 mg qday
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Respiratory: Cough
   Genitourinary: Dialysis
   Musculoskeletal: Myalgias
   Neurologic: Numbness / tingling
   Pain: [**2-24**] Mild
   Pain location: lower extremeties
   Flowsheet Data as of  [**2118-1-6**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 40.2
C (104.4
   Tcurrent: 40.2
C (104.4
   HR: 114 (82 - 122) bpm
   BP: 87/68(72) {87/47(57) - 129/74(88)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 78 Inch
             Total In:
                                                                    460 mL
                                                                  1,067 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    220 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    460 mL
                                                                  1,067 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: symmetric, clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed,
   Labs / Radiology
   8.6 g/dL
   401 K/uL
   84 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   30 mg/dL
   103 mEq/L
   141 mEq/L
   30.5 %
   9.0 K/uL
        [image002.jpg]
   Blood cultures: [**3-27**] GPC
                             [**2118-1-6**]  04:07 AM
   WBC
   9.0
   Hct
   30.5
   Plt
   401
   Cr
   4.4
   Glucose
   84
   Other labs: PT / PTT / INR:14.2/30.6/1.2, Ca++:9.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan\
   // Sepsis
    - [**3-27**] BCx + GPC
    - indwelling femoral dialysis line will need to come out
    - will touch base with ID service who know pt
    - Will continue HD support, - responding well to IVF boluses
    - Cont vanc for now pending ID/Sensi
 if MSSA change to Naf
    - will touch base with renal service regarding changing line
    - await sputum cultures
    - surveillance bcx after line removal. If cont +, will need echo to
   r/o valvular seeding
   // Hypotension
    - improving with IVF boluses though given dialysis dependent careful
   to avoid fluid overload
folllow sats/exam closely
   // Fever
   // ESRD:
    - renal service following
    - HD as needed
   // Seizure disorder:
    - no evidence of current activity
    - cont keppra/oxcarbazemine
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2118-1-5**] 06:43 PM
   18 Gauge - [**2118-1-5**] 06:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2118-01-07 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BPs stable after receiving ~2L IVFs in a.m.
   - HD line pulled
   - ID: get right femoral u/s, give extra dose of vanc
   - spiked to 101 at midnight -> bcx but refused
 BLOOD CULTURED - At [**2118-1-6**] 04:12 PM
   Drawn from HD line
 SPUTUM CULTURE - At [**2118-1-6**] 04:14 PM
 FEVER - 102.1
F - [**2118-1-7**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-6**] 08:37 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-1-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-7**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.2
C (99
   HR: 100 (90 - 109) bpm
   BP: 131/70(84) {85/39(52) - 131/70(84)} mmHg
   RR: 25 (8 - 42) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 78 Inch
                  Total In:
                                                                  3,760 mL
                  PO:
                                                                  1,310 mL
                  TF:
   IVF:
                                                                  2,450 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,760 mL
                                                                      0 mL
   Respiratory support
   SpO2: 94%
   ABG: ////
   Physical Examination
   Gen:
   CV:
   Lungs:
   Abd:
   Ext:
   Neuro:
   Labs / Radiology
   401 K/uL
   8.6 g/dL
   84 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   30 mg/dL
   103 mEq/L
   141 mEq/L
   30.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2118-1-6**]  04:07 AM
   WBC
   9.0
   Hct
   30.5
   Plt
   401
   Cr
   4.4
   Glucose
   84
   Other labs: PT / PTT / INR:14.2/30.6/1.2, Ca++:9.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   59M with ESRD on HD with tunnelled femoral line, recent prolonged
   hospital admission with MSSA bacteremia and lung abscesses, now
   admitted to MICU for fever and hypotension.
   # Hypotension:  Now resolved after fluid ressusitation.  [**Month (only) 60**] have been
   over dialyzed at HD vs. SIRS response in setting of fever and potential
   infection.  No e/o leukocytosis, tachycardia, or clear source of
   infection.  BPs currently holding stable.  Is, however, up 8kg from his
   dry weight, although bed weights less reliable.  Over currently stable
   and will continue to monitor with ID management given below.
   # Fever: Likely [**1-25**] to high-grade bacteremia.   With chronic HD line,
   must be concerned for line associated infection. ED gave levo for RLL
   infiltrate, although appears stable from prior films.  Has chronic
   exudative effusion, with no hx of empyema.
   -- will continue vanc, f/u Bcx sensitivities
   -- given absence of pulm complaints and no change in old CXR, will hold
   more expanded pneumonia coverage, but send sputum for culture
   -- if patient isn'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 11376**], [**First Name3 (LF) 178**] send UA/UCx
   -- discuss w/ renal removal of line.
   # ERSD on HD: will call renal to make sure they are aware of admission
   and cont qMWF HD.  Will cont home sevelamer and renal diet.
   # RLL opacity:  Chronic compared to prior images, will send sputum
   culture and hold of further broadening of antibiotics.
   # Seizure disorder: Will continue home oxcarbazepine and kepra.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-5**] 06:43 PM
   18 Gauge - [**2118-1-5**] 06:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2118-01-07 11:01:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2118-1-6**] 04:12 PM
   Drawn from HD line
 SPUTUM CULTURE - At [**2118-1-6**] 04:14 PM
 FEVER - 102.1
F - [**2118-1-7**] 12:00 AM
 CALLED OUT
 Dialysis line pulled
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-6**] 08:37 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-1-7**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-7**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37
C (98.6
   HR: 100 (90 - 109) bpm
   BP: 123/65(79) {88/39(52) - 131/70(84)} mmHg
   RR: 26 (8 - 42) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 78 Inch
                  Total In:
                                                                  3,760 mL
                                                                    480 mL
   PO:
                                                                  1,310 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,450 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,760 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   401 K/uL
   84 mg/dL
   4.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   30 mg/dL
   103 mEq/L
   141 mEq/L
   30.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2118-1-6**]  04:07 AM
   WBC
   9.0
   Hct
   30.5
   Plt
   401
   Cr
   4.4
   Glucose
   84
   Other labs: PT / PTT / INR:14.2/30.6/1.2, Ca++:9.1 mg/dL, Mg++:1.6
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   // Sepsis
    - [**3-27**] BCx + MSSA
    - repeat bcx pending. If cont +, will need echo to r/o valvular
   seeding
    - change abx Vanc -> Naf for
    - indwelling femoral dialysis line pulled
    - spiked again, wbc trending down
    - Will continue HD support, - responding well to IVF boluses
    - Cont vanc for now pending ID/Sensi
 if MSSA change to Naf
    - surveillance bcx after line removal.
   // Hypotension
    - stable today
    - able to manage with IVF boluses
   // Fever
     - down today
   // ESRD:
    - renal service following
    - needs temp dialysis line
    - suspect will need dialysis today or tomorrow since received sig
   boluses for fluid resuscitation, fluid with iv abx
   // Seizure disorder:
    - no evidence of current activity
    - cont keppra/oxcarbazemine
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-5**] 06:43 PM
   18 Gauge - [**2118-1-5**] 06:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: